US07405221B2
2-Methylthio-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)pyrimidine from Reference Example 3 was reacted with 2,4-dichlorobenzyl alcohol according to the procedure described in Example 59 to afford 2-(2,4-dichlorobenzyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine (HRf): HPLC/MS: m/e=509 (M++1); Rt=5.07 min; 1H-NMR 400 MHz (CDCl3): δ 5.60 (s, 2H), 7.04 (d, J=9 Hz, 2H), 7.21 (m, 6H), 7.38-7.42 (m, 1H), 7.60 (d, J=9 Hz, 1H), 8.60 (s, 1H).

reactant | 2-Methylthio-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)pyrimidine | CSC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C17H11Cl3N2S
reactant | 2,4-dichlorobenzyl alcohol | ClC1=C(CO)C=CC(=C1)Cl | C7H6Cl2O
product | 2-(2,4-dichlorobenzyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | ClC1=C(COC2=NC=C(C(=N2)C2=C(C=C(C=C2)Cl)Cl)C2=CC=C(C=C2)Cl)C=CC(=C1)Cl | C23H13Cl5N2O
